US09278951B2
Synthesis of 3,3′,3″-(2,4,6-trimethylbenzene-1,3,5-triyl)tris(methylene)tris(4,5-dichloro-1-(2-(naphthalen-2-yl)ethyl)-1H-imidazol-3-ium) bromide
4,5-dichloroimidazole (3.00 g, 21.90 mmol) was dissolved in THF and brought to reflux. Potassium hydroxide (2.46 g, 43.80 mmol) was added to the solution and allowed to reflux for 30 min. 2-(bromoethyl)naphthalene (5.15 g, 21.90 mmol) was added to the solution and refluxed for 3 h. Solution was filtered while hot to remove the KBr precipitate and the filtrate was returned to reflux. 1,3,5-tris(bromomethyl)-2,4,6-trimethylbenzene (2.91 g, 7.30 mmol) was added to the solution and refluxed overnight. The volatiles were removed in vacuo and the resulting waxy yellow solid was washed in ethyl ether. A resulting product will be collected and analyzed.

reactant | 4,5-dichloroimidazole | 21.90 mmol, 3.00 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 43.80 mmol, 2.46 g | [OH-].[K+]
reactant | 2-(bromoethyl)naphthalene | 21.90 mmol, 5.15 g | BrCCC1=CC2=CC=CC=C2C=C1 | C12H11Br
reactant | 1,3,5-tris(bromomethyl)-2,4,6-trimethylbenzene | 7.30 mmol, 2.91 g | BrCC1=C(C(=C(C(=C1C)CBr)C)CBr)C | C12H15Br3
reactant | THF | C1CCOC1 | C4H8O
product | 3,3′,3″-(2,4,6-trimethylbenzene-1,3,5-triyl)tris(methylene)tris(4,5-dichloro-1-(2-(naphthalen-2-yl)ethyl)-1H-imidazol-3-ium) bromide | [Br-].CC1=C(C(=C(C(=C1C[N+]1=CN(C(=C1Cl)Cl)CCC1=CC2=CC=CC=C2C=C1)C)C[N+]1=CN(C(=C1Cl)Cl)CCC1=CC2=CC=CC=C2C=C1)C)C[N+]1=CN(C(=C1Cl)Cl)CCC1=CC2=CC=CC=C2C=C1.[Br-].[Br-] | InChI=1S/C57H51Cl6N6.3BrH/c1-37-49(31-67-34-64(52(58)55(67)61)25-22-40-16-19-43-10-4-7-13-46(43)28-40)38(2)51(33-69-36-66(54(60)57(69)63)27-24-42-18-21-45-12-6-9-15-48(45)30-42)39(3)50(37)32-68-35-65(53(59)56(68)62)26-23-41-17-20-44-11-5-8-14-47(44)29-41;;;/h4-21,28-30,34-36H,22-27,31-33H2,1-3H3;3*1H/q+3;;;/p-3
